US06835731B2
Preparation of 3,5-dichloro-N-(4-hydroxymethyl-phenyl)-isonicotinamide:
A suspension of 3,5-dichloroisonicotinic acid (128 mg, 0.667 mmol) in thionyl chloride (2 mL) was heated at reflux for 2 h, then concentrated. To the residue was added 4-aminobenzyl alcohol (123 mg, 0.999 mmol) and THF (2.2 mL), and the mixture was stirred at room temperature for 19 h. The mixture was filtered, and the filtrate was concentrated to give a yellow foam (125 mg, 63%). 1H NMR (CD3OD) δ 4.60 (s, 2H), 7.38 (d, 2H, J=8.7 Hz), 7.63 (d, 2H, J=8.4 Hz), 8.66 (s, 2H).

reactant | 3,5-dichloroisonicotinic acid | 0.667 mmol, 128 mg | ClC1=C(C(=O)O)C(=CN=C1)Cl | C6H3Cl2NO2
reactant | 4-aminobenzyl alcohol | 0.999 mmol, 123 mg | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | 3,5-dichloro-N-(4-hydroxymethyl-phenyl)-isonicotinamide | 125 mg, 63% | ClC1=C(C(=O)NC2=CC=C(C=C2)CO)C(=CN=C1)Cl | C13H10Cl2N2O2
